US09145429B2
To a mixture of 5,6-dichloro-2-(2-(trifluoromethoxy)ethoxy)nicotinamide (240 mg, 0.75 mmol) in MeCN (10 mL) were added POCl3 (350 mg, 2.3 mmol) and pyridine (360 mg, 4.5 mmol) at room temperature. After being stirred for 2 hours at room temperature, the mixture was diluted with 10 mL of sodium hydroxide solution, then extracted with ethyl acetate (2×50 mL), the combined organic layers were washed with brine twice, dried over Na2SO4 and concentrated to give 5,6-dichloro-2-(2-(trifluoromethoxy)ethoxy)nicotinonitrile (0.20 g, 88%).

reactant | 5,6-dichloro-2-(2-(trifluoromethoxy)ethoxy)nicotinamide | 0.75 mmol, 240 mg | ClC=1C(=NC(=C(C(=O)N)C1)OCCOC(F)(F)F)Cl | C9H7Cl2F3N2O3
reactant | POCl3 | 2.3 mmol, 350 mg | O=P(Cl)(Cl)Cl | Cl3OP
reactant | pyridine | 4.5 mmol, 360 mg | N1=CC=CC=C1 | C5H5N
solvent | MeCN | 10 mL | CC#N | C2H3N
solvent | sodium hydroxide | 10 mL | [OH-].[Na+]
product | 5,6-dichloro-2-(2-(trifluoromethoxy)ethoxy)nicotinonitrile | 0.20 g, 88% | ClC=1C(=NC(=C(C#N)C1)OCCOC(F)(F)F)Cl | C9H5Cl2F3N2O2
